US05243035
Reference Example 302 2-Palmitoylaminoethanol (Compound 302)
2-Aminoethanol (13.76 g, 225.3 mmol) was dissolved in CHCl3 (750 ml). To the solution was added dropwise palmitoyl chloride (15.48 g, 56.3 mmol) with stirring under ice cooling. Thereafter, the mixture was stirred at room temperature for 19 hours.

reactant | 2-Aminoethanol | 225.3 mmol, 13.76 g | NCCO | C2H7NO
reactant | palmitoyl chloride | 56.3 mmol, 15.48 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | CHCl3 | 750 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Palmitoylaminoethanol | C(CCCCCCCCCCCCCCC)(=O)NCCO | C18H37NO2
